US07759337B2
Synthesis of 3-(1-Acetyl-4-methylphthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide
3-(1-Acetyl-4-methyl-3,4-dihydrophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide (24 mg, 66 μmol) was dissolved in EtOH/water (2:1) (664 μl) and potassium permanganate (10 mg, 66 μmol) was added. The mixture was stirred at RT for 40 min, quenched with saturated, aqueous sodium thiosulfate and diluted with 50 mL of chloroform. In a separatory funnel, the mixture was washed 2×20 mL with sodium thiosulfate and the organics were separated, dried over sodium sulfate, concentrated in vacuo, and purified by HPLC to give the title compound. MS (ES+): 360 (M+H)+.

reactant | 3-(1-Acetyl-4-methyl-3,4-dihydrophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 66 μmol, 24 mg | C(C)(=O)C1=NNC(C2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C)C | C22H23N3O2
reactant | potassium permanganate | 66 μmol, 10 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | EtOH water | 664 μl | CCO.O
product | 3-(1-Acetyl-4-methylphthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | C(C)(=O)C1=NN=C(C2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C)C | C22H21N3O2
